US07381719B2
N-Methyl-6-[4-(phenethylamino-methyl)-phenoxy]-nicotinamide
Combine [4-(5-Ethylcarbamoyl-pyridin-2-yloxy)-benzyl]-phenethyl-carbamic acid tert-butyl ester (55.4 mg, 0.12 mmol), CH2Cl2 (4 mL), and TFA 99% (0.8 mL) in a 7 mL reaction vial. After reaction shakes on shaker at room temperature for 24 hours, concentrate under reduced pressure. Add the reaction mixture to a 2 g SCX column, wash with MeOH, and elute with 1N NH3 MeOH. Concentrate sample to afford 41.2 mg (95% yield) of the title compound: 1H NMR (500 MHz, CDCl3); 1.5 (1H, br m), 2.7-3.0 (7H, m), 3.7 (2H, s), 6.2 (1H, br s), 6.9 (1H, d), 7.0-7.4 (9H, m), 8.0 (1H, d), 8.4 (1H, s); MS m/z 363 (M+1).

reactant | [4-(5-Ethylcarbamoyl-pyridin-2-yloxy)-benzyl]-phenethyl-carbamic acid tert-butyl ester | 0.12 mmol, 55.4 mg | C(C)(C)(C)OC(N(CCC1=CC=CC=C1)CC1=CC=C(C=C1)OC1=NC=C(C=C1)C(NCC)=O)=O | C28H33N3O4
reactant | TFA | 0.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-Methyl-6-[4-(phenethylamino-methyl)-phenoxy]-nicotinamide | 41.2 mg, 95% yield | CNC(C1=CN=C(C=C1)OC1=CC=C(C=C1)CNCCC1=CC=CC=C1)=O | C22H23N3O2
